Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Amoxicillin / Latex
 
Attending: ___.
 
Chief Complaint:
Pregnancy
 
Major Surgical or Invasive Procedure:
repeat c-section

 
History of Present Illness:
___ yo G3P2 at 37w6d presents for repeat LTCS for oligohydramnios 
seen on testing today.  Remainder of testing reassuring (BPP 
___, reactive NST).  Pt denies any VB/LOF/CTX.  She endorses 
AFM.  Patient reports that she was having testing for gHTN.  She 
had a neg PEC evaluation ___.  Today, pt denies any 
HA/VC/Epigastric pain.  
 
Past Medical History:
PNC: 
- ___ ___
- O+/Ab neg/RI/RPRNR/HbSAg neg
- EFW ___ g  42nd %
- Fibroid uterus, largest anterior fundal 9 cm

POBHx:
- ___  SVD  c/b gHTN 5#
- ___ primary LTCS stat under general for BPP ___

PGynHx: Denies STD's / no abnl paps / has known fibroids 
PMH: denies

PSH: LTCS x1
wisdom teeth
 
Social History:
Denies EtOH/ Smoking/ Drugs

 
Physical Exam:
PE: 99.2  64   20   140/74
NAD
Abd soft, gravid, NT 
Ext: NT 
 
Pertinent Results:
___ 12:15PM   WBC-7.2 RBC-3.21* HGB-9.6* HCT-28.7* MCV-89 
MCH-30.0 MCHC-33.6 RDW-14.9
___ 12:15PM   CREAT-0.8
___ 12:15PM   URIC ACID-6.8*
___ 12:15PM   ALT(SGPT)-18
___ 12:15PM URINE  HOURS-RANDOM CREAT-37 TOT PROT-6 
PROT/CREA-0.2
___ 04:47PM URINE  24Creat-___
 
Brief Hospital Course:
Patient was admitted to Labor and Delivery for oligohydramnios 
seen on testing.  She underwent a repeat c-section and delivered 
a live female infant weighing 3105 grams with Apgars 8 and 8.  
Please see the operative note for details of the procedure.  Her 
pre-operative hematocrit was 28.9 and she received one unit of 
packed red blood cells intraoperatively due to an estimated 
blood loss of 2000cc.

Her postpartum course was uncomplicated, and although her 
hematocrit dropped to 20.2, she remained hemodynamically stable 
with normal vital signs and was asymptomatic for the duration of 
her admission.  She declined further blood transfusion.  
Prenatally she had undergone workup for gestational hypertension 
and had a negative pre-eclampsia evaluation on ___.  Her 
admission BP was 140/74, her BP's remained within normal limits 
and she remained without symptoms of pre-eclampsia throughout 
her hospital admission.  

She was discharged on postpartum day 4 tolerating a regular 
diet, with her pain well controlled on Percocet and Motrin, and 
with instructions to follow up in 2 and 6 weeks with Dr. ___.
 
Medications on Admission:
PNV, iron

 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q3H (every 3 hours) as needed for Pain for 2 weeks.
Disp:*40 Tablet(s)* Refills:*0*
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain for 2 weeks.
Disp:*40 Tablet(s)* Refills:*0*
3. breast pump  Sig: One (1)   three times a day: 
dx: large EBL.
Disp:*1 * Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
fullterm repeat c-section
fibroid uterus
anemia, postpartum hemorrhage
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please follow printed instructions
 
Followup Instructions:
___